US08420647B2
{2,5-Dichloro-4-[5-(4-cyclopropyl-3,4-dihydro-2H-quinoxaline-1-carbonyl)-2-methyl-pyridin-4-yloxy]-benzoylamino}-acetic acid methyl ester
The title compound was prepared in analogy to Example 29, from 2,5-dichloro-4-[5-(4-cyclopropyl-3,4-dihydro-2H-quinoxaline-1-carbonyl)-2-methyl-pyridin-4-yloxy]-benzoic acid and glycine methyl ester hydrochloride (commercially available, CAS RN 5680-79-5). The compound was purified on a preparative HPLC system (Phenomenex Gemini column) with a gradient of acetonitrile:water (containing 0.05% formic acid) (50:50 to 95:5), to give 44 mg (39%) of the title compound as a light yellow solid. MS (ESI): m/z=569.136 [M+H]+.

reactant | 2,5-dichloro-4-[5-(4-cyclopropyl-3,4-dihydro-2H-quinoxaline-1-carbonyl)-2-methyl-pyridin-4-yloxy]-benzoic acid | ClC1=C(C(=O)O)C=C(C(=C1)OC1=CC(=NC=C1C(=O)N1CCN(C2=CC=CC=C12)C1CC1)C)Cl | C25H21Cl2N3O4
reactant | glycine methyl ester hydrochloride | Cl.COC(CN)=O
product | {2,5-Dichloro-4-[5-(4-cyclopropyl-3,4-dihydro-2H-quinoxaline-1-carbonyl)-2-methyl-pyridin-4-yloxy]-benzoylamino}-acetic acid methyl ester | 44 mg, 39% | COC(CNC(C1=C(C=C(C(=C1)Cl)OC1=CC(=NC=C1C(=O)N1CCN(C2=CC=CC=C12)C1CC1)C)Cl)=O)=O | C28H26Cl2N4O5
